US07521448B2
1-{3-[(Pyridin-3-ylmethyl)amino]phenyl}-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide.
A solution of 1-(3-aminophenyl)-N-(pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide (prepared in Steps (a)-(d) of the procedure used for the synthesis of EXAMPLE I1, 70.2 mg, 0.205 mmol) and nicotinaldehyde (20 μL, 0.21 mmol) in DCM (1 mL) under N2 was treated with TFA (1 mL) and after 5 min was heated at reflux for 2 h. The cooled reaction mixture was then treated with Et3SiH (70 μL, 0.44 mmol) and the mixture re-heated to reflux for 19 h. After this time the solvents and excess reagents were removed by concentration in vacuo and the crude residue purified by column chromatography over silica gel eluting with 0.7-15% MeOH/DCM to provide the title compound; MS (ES+): m/z 435 [MH+]

reactant | 1-(3-aminophenyl)-N-(pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide | NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C20H17N5O
reactant | nicotinaldehyde | 0.21 mmol, 20 μL | C(C1=CN=CC=C1)=O | C6H5NO
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Et3SiH | 0.44 mmol, 70 μL | [SiH](CC)(CC)CC | C6H16Si
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-{3-[(Pyridin-3-ylmethyl)amino]phenyl}-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide | N1=CC(=CC=C1)CNC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C26H22N6O
